US06121500
The process of claim 1 which also comprises methylating the 6-bromo-2-naphthol to 6-bromo-2-methoxynaphthalene and then converting the 6-bromo-2-methoxynaphthalene thus obtained to 4-(6-methoxy-2-naphthyl)-2-butanone.

reactant | 6-bromo-2-naphthol | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
reactant | 6-bromo-2-methoxynaphthalene | BrC=1C=C2C=CC(=CC2=CC1)OC | C11H9BrO
product | 4-(6-methoxy-2-naphthyl)-2-butanone | COC=1C=C2C=CC(=CC2=CC1)CCC(C)=O | C15H16O2
